US09278968B2
To a solution of 2.54 g of ethyl N-(diphenylmethylene)glycinate in 15 ml of toluene were added 1.52 g of 4-bromo-1-methyl-1H-pyrazole, 522 mg of bis(tri-tert-butylphosphine)palladium(0), and 6 g of tripotassium phosphate, followed by stirring at 100° C. for 12 hours. The reaction mixture was left to be cooled to room temperature and then filtered over Celite, and the filtrate was concentrated under reduced pressure. To the obtained residue was added water, followed by extraction with ethyl acetate. The organic layer was washed with a saturated aqueous sodium chloride solution and dried over anhydrous magnesium sulfate, and the solvent was then evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography to obtain 328 mg of ethyl [(diphenylmethylene)amino](1-methyl-1H-pyrazol-4-yl)acetate.

reactant | ethyl N-(diphenylmethylene)glycinate | 2.54 g | C1(=CC=CC=C1)C(=NCC(=O)OCC)C1=CC=CC=C1 | C17H17NO2
reactant | 4-bromo-1-methyl-1H-pyrazole | 1.52 g | BrC=1C=NN(C1)C | C4H5BrN2
reactant | tripotassium phosphate | 6 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
solvent | toluene | 15 ml | C1(=CC=CC=C1)C | C7H8
catalyst | bis(tri-tert-butylphosphine)palladium(0) | 522 mg | CC(C)([P](C(C)(C)C)([Pd][P](C(C)(C)C)(C(C)(C)C)C(C)(C)C)C(C)(C)C)C
product | ethyl [(diphenylmethylene)amino](1-methyl-1H-pyrazol-4-yl)acetate | 328 mg | C1(=CC=CC=C1)C(C1=CC=CC=C1)=NC(C(=O)OCC)C=1C=NN(C1)C | C21H21N3O2
